US06855710B2
(Z)-3-{1-[4-(N-piperazinomethylcarbonyl-N-methyl-amino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-dihydrochloride
Prepared analogously to Example 54 from (Z)-3-{1-[4-(N-(4-benzylpiperazinomethylcarbonyl)-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone and 1-chloroethyl chloroformate in dichloromethane.

reactant | (Z)-3-{1-[4-(N-(4-benzylpiperazinomethylcarbonyl)-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C35H34N6O4
reactant | 1-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-3-{1-[4-(N-piperazinomethylcarbonyl-N-methyl-amino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-dihydrochloride | Cl.Cl.N1(CCNCC1)CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C28H28N6O4.2ClH/c1-32(25(35)18-33-15-13-29-14-16-33)21-9-7-20(8-10-21)30-27(19-5-3-2-4-6-19)26-23-17-22(34(37)38)11-12-24(23)31-28(26)36;;/h2-12,17,29-30H,13-16,18H2,1H3,(H,31,36);2*1H/b27-26-;;
